US07838675B2
N-[2-[[(2,3-difluorophenyl)methyl]thio]-6-[[2-hydroxy-1-(hydroxymethyl)ethyl]thio]-pyrimidin-4-yl]azetidine-1-sulfonamide
A solution of N-[2-[[(2,3-difluorophenyl)methyl]thio]-6-[(2-phenyl-1,3-dioxan-5-yl)thio]pyrimidin-4-yl]azetidine-1-sulfonamide (the product of step ii) (0.11 g) and pyridinium para-toluenesulfonate (99 mg) in methanol (5 mL) and H2O (2 drops) was heated at 60° C. for 1 h. The solution was cooled and the solvent evaporated under reduced pressure. The residue was dissolved in EtOAc, washed with H2O, dried (MgSO4) and filtered. The solvent was evaporated under reduced pressure and the residue was purified by flash chromatography on silica gel, eluting with EtOAc/iso-hexane (8:2) to give the subtitle product as a yellow gum. The gum was dissolved in DCM and methanol, filtered through charcoal and the filtrate evaporated under reduced pressure. The residual solid was dried under high vacuum at 40° C. to give the title product as a white solid. Yield: 50 mg

reactant | N-[2-[[(2,3-difluorophenyl)methyl]thio]-6-[(2-phenyl-1,3-dioxan-5-yl)thio]pyrimidin-4-yl]azetidine-1-sulfonamide | FC1=C(C=CC=C1F)CSC1=NC(=CC(=N1)NS(=O)(=O)N1CCC1)SC1COC(OC1)C1=CC=CC=C1 | C24H24F2N4O4S3
reactant | pyridinium para-toluenesulfonate | 99 mg | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
solvent | methanol | 5 mL | CO | CH4O
catalyst | H2O | 2 drops | O | H2O
product | N-[2-[[(2,3-difluorophenyl)methyl]thio]-6-[[2-hydroxy-1-(hydroxymethyl)ethyl]thio]-pyrimidin-4-yl]azetidine-1-sulfonamide | FC1=C(C=CC=C1F)CSC1=NC(=CC(=N1)NS(=O)(=O)N1CCC1)SC(CO)CO | C17H20F2N4O4S3
